US09446034B2
2-[(5-Chloro-2-{[3-(hydroxymethyl)-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-N-(methyloxy)benzamide
A microwave tube was charged with 2-[(2,5-dichloro-4-pyridinyl)amino]-N-(methyloxy)benzamide (188 mg, 0.602 mmol), [5-amino-1-(1-methylethyl)-1H-pyrazol-3-yl]methanol (140 mg, 0.90 mmol), cesium carbonate (589 mg, 1.81 mmol) and DMF (5 ml). The reaction mixture was degassed under nitrogen for 10 min and palladium (II) acetate (6.8 mg, 0.03 mmol) and BINAP (37.5 mg, 0.06 mmol) were added. The reaction mixture was heated in an oil bath at 90° C. for 5 hrs and then in a microwave at 150° C. for 40 min. It was evaporated and the residue was dissolved in MeOH, filtered thru celite and thru an Acrodisc and purified further using preparative Agilent HPLC (5 to 95% water:acetonitrile with 0.1% formic acid). Fractions were combined and evaporated. EtOAc was added to the brown oil residue. Then the mixture was heated and hexane was added dropwise. A light yellow precipitate crashed out upon sonication. It was filtered off and dried under vacuum at 40° C. for 12 hrs. LC-MS [M+H]+=431.2. 1H NMR (400 MHz, DMSO-d6) ppm 11.93 (br. s., 1 H) 9.54 (br. s., 1 H) 8.54 (s, 1 H) 7.96-8.01 (m, 1 H) 7.52-7.62 (m, 3 H) 7.11-7.16 (m, 1 H) 6.70 (s, 1 H) 6.10 (s, 1 H) 4.95 (t, J=5.81 Hz, 1 H) 4.43 (dt, J=13.14, 6.57 Hz, 1 H) 4.33 (d, J=5.56 Hz, 2 H) 3.71 (s, 3 H) 1.29 (d, J=6.57 Hz, 6 H).

reactant | 2-[(2,5-dichloro-4-pyridinyl)amino]-N-(methyloxy)benzamide | 0.602 mmol, 188 mg | ClC1=NC=C(C(=C1)NC1=C(C(=O)NOC)C=CC=C1)Cl | C13H11Cl2N3O2
reactant | [5-amino-1-(1-methylethyl)-1H-pyrazol-3-yl]methanol | 0.90 mmol, 140 mg | NC1=CC(=NN1C(C)C)CO | C7H13N3O
reactant | cesium carbonate | 1.81 mmol, 589 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.06 mmol, 37.5 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
catalyst | palladium (II) acetate | 0.03 mmol, 6.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-[(5-Chloro-2-{[3-(hydroxymethyl)-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-N-(methyloxy)benzamide | ClC=1C(=CC(=NC1)NC1=CC(=NN1C(C)C)CO)NC1=C(C(=O)NOC)C=CC=C1 | C20H23ClN6O3
